US07745475B2
3-(Benzyloxy)-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-N-(5-methyl-1,3-thiazol-2-yl)benzamide
DIPEA (7.5 mL) was added to a suspension of 3-{(phenylmethyl)oxy}-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)benzoic acid (4.5 g, 0.011 mol), HATU (8.6 g, 0.023 mol) and 2-amino-5-methylthiazole (2.46 g, 0.022 mol) in DMF (70 mL). The resulting mixture was stirred at ambient temperature for 72 hours. The DMF was removed in vacuo. Water (100 mL) was added and the mixture extracted with ethyl acetate (3×50 mL). The extracts were combined and washed with brine (100 mL). The solution was dried (MgSO4), filtered, and evaporated in vacuo to give the crude product which was chromatographed on silica, eluting with a gradient of 50-100% ethyl acetate in isohexane, to give the desired compound. (1.7 g).

reactant | DIPEA | 7.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-{(phenylmethyl)oxy}-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)benzoic acid | 0.011 mol, 4.5 g | C1(=CC=CC=C1)COC=1C=C(C(=O)O)C=C(C1)O[C@H](CO[Si](C)(C)C(C)(C)C)C | C23H32O5Si
reactant | HATU | 0.023 mol, 8.6 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-amino-5-methylthiazole | 0.022 mol, 2.46 g | NC=1SC(=CN1)C | C4H6N2S
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | 3-(Benzyloxy)-5-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-N-(5-methyl-1,3-thiazol-2-yl)benzamide | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC=2SC(=CN2)C)C=C(C1)O[C@H](CO[Si](C)(C)C(C)(C)C)C | C27H36N2O4SSi
